US06653477B2
3 g of 8-benzyloxy-6-ethoxycarbonyl-2,3-dimethylimidazo[1,2-a]pyridine, suspended in 50 ml of ethanol, are treated with 0.5 g of 10% strength palladium/active carbon and hydrogenated under a hydrogen pressure of 50 bar for 20 hours at an oil bath temperature of 75° C. After cooling, the catalyst is filtered off, the filtrate is concentrated to ⅕ of the volume in vacuo and the colorless precipitate formed here is filtered off. The filtrate from the precipitate is concentrated to dryness and chromatographed or silica gel (eluent: methylene chloride/methanol 100/3). 0.32 g of 6-ethoxycarbonyl-8-hydroxy-2,3-dimethyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine is obtained. For conversion into the title compound, it is dissolved in chloroform, treated with 1.6 g of manganese dioxide and stirred at room temperature for 20 h. It is then filtered off, the filtrate is concentrated to dryness in vacuo and the residue obtained is purified on silica gel (eluent: methylene chloride/methanol 13/1). 0.2 g of the title compound of melting point 138-40° C. (diethyl ether) is obtained.

reactant | 8-benzyloxy-6-ethoxycarbonyl-2,3-dimethylimidazo[1,2-a]pyridine | 3 g | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)C(=O)OCC)C(=C(N2)C)C | C19H20N2O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 6-ethoxycarbonyl-8-hydroxy-2,3-dimethyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine | 0.32 g | C(C)OC(=O)C1CC(C=2N(C1)C(=C(N2)C)C)O | C12H18N2O3
